US06218376B1
i) 5-(3-Methoxyphenyl)penta-2,4-dienoic acid, methyl ester
A mixture of potassium tert-butoxide (52 g) and tert-butanol (170 ml) was treated dropwise with a mixture of 3-methoxybenzaldehyde (30 g) and methyl crotonate (35 ml). The temperature of the reaction mixture rose to 80° C. during the addition and was then maintained for a further 3 hours at 65° C. The reaction mixture was cooled to room temperature, poured into ice/water and washed with diethyl ether. The aqueous phase was acidified with concentrated HCl and extracted with ethyl acetate. The organic phase was washed with brine, dried (MgSO4) and evaporated under reduced pressure to yield an orange oil. Yield 53.2 g. Used directly in the next step.

reactant | potassium tert-butoxide | 52 g | CC(C)([O-])C.[K+]
reactant | 3-methoxybenzaldehyde | 30 g | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | methyl crotonate | 35 ml | C(\C=C\C)(=O)OC | C5H8O2
solvent | tert-butanol | 170 ml | C(C)(C)(C)O | C4H10O
product | 5-(3-Methoxyphenyl)penta-2,4-dienoic acid, methyl ester | COC=1C=C(C=CC1)C=CC=CC(=O)OC | C13H14O3
